US09382228B2
A solution of methyl 1-methoxycyclopentanecarboxylate (1.00 g, 6.32 mmol) in THF (10 mL) was treated with a solution of LiOH (0.531 g, 12.64 mmol) in water (5 mL), stirred at RT overnight and concentrated to dryness. The residue was diluted with water, acidified with HCl (2M, 6 mL), extracted with EtOAc (3×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford 1-methoxycyclopentanecarboxylic acid (900 mg, 99%). 1H NMR (400 MHz, CDCl3): δ 3.31 (s, 3H), 2.05-2.03 (m, 4H), 1.78-1.77 (m, 4H) [CO2H not observed].

reactant | methyl 1-methoxycyclopentanecarboxylate | 6.32 mmol, 1.00 g | COC1(CCCC1)C(=O)OC | C8H14O3
reactant | LiOH | 12.64 mmol, 0.531 g | [Li+].[OH-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 1-methoxycyclopentanecarboxylic acid | 900 mg, 99% | COC1(CCCC1)C(=O)O | C7H12O3
